US06806381B2
A 22 L three-necked round bottom flask equipped with mechanical agitation was charged with hydroxy-(3-isopropyl-4-methoxyphenyl)methanesulfonic acid, sodium salt (1300 g, 4.61 moles), p-toluenesulfonic acid monohydrate (908 g, 4.77 moles), and methanol (10.4 L), and the mixture was cooled to 0° to 5° C. Hydrogen peroxide (30% aqueous, 1.625 L, 16.12 moles) was added slowly to the reaction mixture over about 2 h. The reaction mixture was stirred overnight and allowed to return to room temperature. The completeness of the reaction was assayed by HPLC; if the reaction was incomplete, further hydrogen peroxide was added to the reaction mixture. The reaction mixture was cooled once more to 0° to 5° C. and then quenched by addition of an aqueous slurry of sodium dithionite (1860 g, 10.68 moles, stirred 1 h at room temperature in 6.5 L deionized water). After stirring at least 0.5 h, the reaction mixture was filtered, and the white solids were washed with ethyl acetate (8 L). The ethyl acetate and the aqueous filtrate were combined, agitated, and allowed to separate. Cyclohexane was added if necessary to facilitate separation. The organic phase was washed with sodium bicarbonate (4 L, 10% aqueous solution), then with saturated aqueous sodium chloride solution (4 L). The solvent was removed by vacuum distillation to afford 3-isopropyl-4-methoxyphenol (510 g, 66.7%).

reactant | hydroxy-(3-isopropyl-4-methoxyphenyl)methanesulfonic acid | OC(S(=O)(=O)O)C1=CC(=C(C=C1)OC)C(C)C | C11H16O5S
reactant | sodium | 4.61 moles, 1300 g | [Na] | Na
reactant | p-toluenesulfonic acid monohydrate | 4.77 moles, 908 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Hydrogen peroxide | 16.12 moles, 1.625 L | OO | H2O2
reactant | sodium dithionite | 10.68 moles, 6.5 L, 1860 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 10.4 L | CO | CH4O
product | 3-isopropyl-4-methoxyphenol | 510 g, 66.7% | C(C)(C)C=1C=C(C=CC1OC)O | C10H14O2
